US04331683
trans-N-Decyl-2-(4-nitrophenyl)cyclopropanecarboxamide
The title compound was prepared from trans-2-(4-nitrophenyl)cyclopropanecarboxylic acid and decylamine, substantially according to the procedure of Preparation 30. A 98% yield of a white, waxy solid, m.p. 127°-129° C., was obtained.

reactant | trans-2-(4-nitrophenyl)cyclopropanecarboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C10H9NO4
reactant | decylamine | C(CCCCCCCCC)N | C10H23N
product | trans-N-Decyl-2-(4-nitrophenyl)cyclopropanecarboxamide | 98% yield | C(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H30N2O3
